US04760192
Sodium hydride (0.65 g, 0.027 mole) was added to a stirred solution of 3-hydroxy-5-(pentamethylphenyl)cyclohex-2-en-1-one (6.4 g, 0.024 mole) in dimethylformamide (100 ml) at 60° C. After 15 minutes propionic anhydride (3.3 g, 0.027 mole) was added and the mixture was heated at 110°-120° C. for 3 hours. It was then poured into water (300 ml) and extracted with diethyl ether (2×100 ml). The ether extracts were dried over anhydrous sodium sulfate and the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The product, a brown oil, was purified by chromatography over silica gel (eluent carbon tetrachloride: chloroform (1:1)) to give 3-hydroxy-5-(pentamethylphenyl)-2-propionyl-cyclohex-2-en-1-one (4.4 g, 56%) as a nearly colourless solid, mp 84° C.

reactant | Sodium hydride | 0.027 mole, 0.65 g | [H-].[Na+]
reactant | 3-hydroxy-5-(pentamethylphenyl)cyclohex-2-en-1-one | 0.024 mole, 6.4 g | OC1=CC(CC(C1)C1=C(C(=C(C(=C1C)C)C)C)C)=O | C17H22O2
reactant | propionic anhydride | 0.027 mole, 3.3 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-5-(pentamethylphenyl)-2-propionyl-cyclohex-2-en-1-one | 4.4 g, 56% | OC1=C(C(CC(C1)C1=C(C(=C(C(=C1C)C)C)C)C)=O)C(CC)=O | C20H26O3
